US08729105B2
Preparation of 6-(cyclopropylmethoxy)-5-(3,4-difluorophenyl)nicotinic acid
The title compound was synthesized in analogy to Example BQ using 5-bromo-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid (CAN 912454-38-7) and B-(3,4-difluorophenyl)-boronic acid, (CAN 168267-41-2) as starting materials; MS (ESI): 304.2 (M−H)−.

reactant | 5-bromo-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OCC1CC1)C(=O)O | C10H10BrNO3
reactant | B-(3,4-difluorophenyl)-boronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 6-(cyclopropylmethoxy)-5-(3,4-difluorophenyl)nicotinic acid | C1(CC1)COC1=NC=C(C(=O)O)C=C1C1=CC(=C(C=C1)F)F | C16H13F2NO3
